US07368578B2
To a mixture of 1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carbaldehyde (0.50 g), ethyl diethylphosphonoacetate (0.27 g) and N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 0.05 g) at room temperature, and the mixture was stirred at the same temperature for 15 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give ethyl (2E)-3-{1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-2-propenoate as colorless crystals (0.51 g, yield 91%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 149-150° C.

reactant | 1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carbaldehyde | 0.50 g | C(C)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C23H23N3O6
reactant | ethyl diethylphosphonoacetate | 0.27 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.05 g | [H-].[Na+]
solvent | Water | O | H2O
product | ethyl (2E)-3-{1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-2-propenoate | 0.51 g, yield 91% | C(C)N1N=C(C(=C1)/C=C/C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C27H29N3O7
